US08445509B2
Production of methyl 1-(4-fluoro-2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylate
To a solution of methyl 2-oxo-2H-pyran-3-carboxylate (3 g, 19.5 mmol) in N,N-dimethylformamide, (18 mL) was added 4-fluoro-2-methylaniline (2.44 g, 19.5 mmol), and the mixture was stirred at room temperature for 3 hr. 4-Dimethylaminopyridine (119 mg, 0.974 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (4.48 g, 23.4 mmol) were added to the reaction mixture, and the mixture was further stirred at room temperature for 16 hr. 2N Hydrochloric acid was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/1), and the obtained solid was washed with hexane/ethyl acetate (=1/1) and collected by filtration to give the title compound (0.40 g, 8%) as a yellow solid.

reactant | methyl 2-oxo-2H-pyran-3-carboxylate | 19.5 mmol, 3 g | O=C1OC=CC=C1C(=O)OC | C7H6O4
reactant | 4-fluoro-2-methylaniline | 19.5 mmol, 2.44 g | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 23.4 mmol, 4.48 g | Cl.C(C)N=C=NCCCN(C)C
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
catalyst | 4-Dimethylaminopyridine | 0.974 mmol, 119 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 1-(4-fluoro-2-methylphenyl)-2-oxo-1,2-dihydropyridine-3-carboxylate | 0.40 g, 8% | FC1=CC(=C(C=C1)N1C(C(=CC=C1)C(=O)OC)=O)C | C14H12FNO3
